US07378414B2
(2S)-2-(methoxymethyl)-1-(2-methoxy-1-naphthoyl)pyrrolidine
To a solution of 2-methoxy-naphthalene-1-carbonyl chloride (0.50 g, 2.27 mmol) in dry dichloromethane (5 mL) at 0° C. under a N2 atmosphere was added 2-(S)-methoxymethylpyrrolidine (0.32 g, 2.75 mmol) and triethylamine (0.47 mL, 3.39 mmol). The mixture was allowed to warm to rt and stirred overnight, after which time it was poured into N HCl (50 mL) and extracted with dichloromethane (3×50 mL). The combined organic layers were dried over Na2SO4, and the crude product was purified by column chromatography on silica gel using a solvent gradient of 10-30% ethyl acetate in hexane. The title compound was obtained as a colorless solid (0.374 g, 55%). 1H NMR (300 MHz, CDCl3) δ 1.90 (m, 6 H), 2.99 (m, 1 H), 3.21 (m, 1 H), 3.48 (m, 3 H), 3.95 (m, 3 H), 4.59 (m, 1 H), 7.29 (m, 1 H), 7.37 (m, 1 H), 7.48 (m, 1 H), 7.76 (m, 3 H); MS (ESI) m/z=300 [M+H].

reactant | 2-methoxy-naphthalene-1-carbonyl chloride | 2.27 mmol, 0.50 g | COC1=C(C2=CC=CC=C2C=C1)C(=O)Cl | C12H9ClO2
reactant | 2-(S)-methoxymethylpyrrolidine | 2.75 mmol, 0.32 g | COC[C@H]1NCCC1 | C6H13NO
reactant | triethylamine | 3.39 mmol, 0.47 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 50 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2S)-2-(methoxymethyl)-1-(2-methoxy-1-naphthoyl)pyrrolidine | COC[C@H]1N(CCC1)C(=O)C1=C(C=CC2=CC=CC=C12)OC | C18H21NO3
